US08404467B2
2-Mercaptobenzothiazole can be produced from aniline by the following synthesis approach. Here, carbon disulfide can be generated and separated for example by reacting mustard oil, which is contained about 0.4% in leaf mustard, with hydrogen sulfide. The method allows to produce the vulcanization accelerator without petroleum resources. Dibenzothiazyl disulfide is synthesized by oxidizing thus produced 2-mercaptobenzothiazole.

reactant | hydrogen sulfide | S | H2S
reactant | 2-mercaptobenzothiazole | SC=1SC2=C(N1)C=CC=C2 | C7H5NS2
solvent | carbon disulfide | C(=S)=S | CS2
product | Dibenzothiazyl disulfide | C1=CC=C2C(=C1)N=C(S2)SSC3=NC4=CC=CC=C4S3 | C14H8N2S4
